US05668146
A mixture of 1,5-bis(4-methoxyphenyl)-3-pentanone (2.1 g, 7 mmol), prepared as in step 1, and aluminum tribromide (10.64 g, 40 mmol) in toluene (60 mL) was refluxed at 80° C. for 30 minutes and then cooled to room temperature. The reaction mixture was slowly added to a mixture of aqueous 1N HCl (150 mL) and ethyl ether (150 mL). The ether layer was separated, washed with aqueous 1N HCl, water, and brine, dried over MgSO4, filtered, and concentrated in vacuo to provide 1,5-bis-(4-hydroxyphenyl)-3-pentanone (2 g).

reactant | 1,5-bis(4-methoxyphenyl)-3-pentanone | 7 mmol, 2.1 g | COC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)OC)=O | C19H22O3
reactant | aluminum tribromide | 40 mmol, 10.64 g | [Br-].[Br-].[Br-].[Al+3]
reactant | HCl | 1N, 150 mL | Cl | ClH
reactant | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 1,5-bis-(4-hydroxyphenyl)-3-pentanone | 2 g | OC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)O)=O | C17H18O3
